US04236004
7,8-dihydro-5-hydroxy-2-(methylthio)-7-oxo-8-(2-propenyl)pyrido[2,3-d]pyrimidine-6-carboxylic acid ethyl ester
To a solution of 25.3 g. (0.1 mole) of 4-allylamino-2-methylthio-5-pyrimidine carboxylic acid ethyl ester in 400 ml. of anhydrous diethyl ether was added 7.5 g. (0.005 mole) of ethyl malonyl chloride. The mixture was stirred at room temperature for 3 hours. The mixture was filtered and the filtrate was evaporated in a rotary evaporator. The residue was dissolved in 15 ml. of ethanol and this solution was added to a solution of 2.3 g. (0.1 g. atom) of sodium in 200 ml. of ethanol. The mixture was stirred at room temperature for 5 minutes and was diluted with water, acidified with glacial acetic acid and was extracted with 150 ml. of diethyl ether. The ether layer was dried over magnesium sulfate, filtered and was acidified with gaseous hydrogen chloride. The mixture was filtered and the filtrate was cooled in ice. The precipitate which formed was collected and was recrystallized from ethyl acetate to give 0.2 g. of product--m.p. 134°-136° C.

reactant | 4-allylamino-2-methylthio-5-pyrimidine carboxylic acid ethyl ester | 0.1 mole | C(C)OC(=O)C=1C(=NC(=NC1)SC)NCC=C | C11H15N3O2S
reactant | ethyl malonyl chloride | 0.005 mole | C(C)C(C(=O)Cl)C(=O)Cl | C5H6Cl2O2
reactant | diethyl ether | C(C)OCC | C4H10O
product | 7,8-dihydro-5-hydroxy-2-(methylthio)-7-oxo-8-(2-propenyl)pyrido[2,3-d]pyrimidine-6-carboxylic acid ethyl ester | C(C)OC(=O)C1=C(C2=C(N=C(N=C2)SC)N(C1=O)CC=C)O | C14H15N3O4S
